US04837225
N-(2-(2,5-Dimethyl-1-pyrrolyl)ethyl-5-oxoperhydro-1,4-thiazepine-3-carboxamide
3.5 g (0.02 mol) of 5-oxoperhydro-1,4-thiazepine-3-carboxylic acid and 2.8 g (0.02 mol) of 1-(2-aminoethyl)-2,5-dimethylpyrrole are dissolved in 10 ml of dimethylformamide. After addition of 4.2 g (0.02 mol) of dicyclohexylcarbodiimide, dissolved in 10 ml of methylene chloride, to the mixture at 0° C., it is stirred at room temperature for 24 h, then water is added and the mixture is filtered with suction. The filtrate is extracted with methylene chloride, and the extract is chromatographed over a silica gel column using ethyl acetate as the mobile phase. Yield: 1.2 g (20% of theory), Melting point: 181°-183° C. Elemental analysis: C14H21N3O2S (295.41) calculated: C 56.9 H 7.2 N 14.2 0 10.8 S 10.9 found: C 57.4 H 6.9 N 13.8 0 11.2 S 10.8

reactant | 5-oxoperhydro-1,4-thiazepine-3-carboxylic acid | 0.02 mol, 3.5 g | O=C1NC(CSCC1)C(=O)O | C6H9NO3S
reactant | 1-(2-aminoethyl)-2,5-dimethylpyrrole | 0.02 mol, 2.8 g | NCCN1C(=CC=C1C)C | C8H14N2
reactant | dicyclohexylcarbodiimide | 0.02 mol, 4.2 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-(2,5-Dimethyl-1-pyrrolyl)ethyl-5-oxoperhydro-1,4-thiazepine-3-carboxamide | CC=1N(C(=CC1)C)CCC1SCCC(NC1C(=O)N)=O | C14H21N3O2S
